US06177440B1
Preparation of 4-methoxy-6-methoxycarbonyl-10-phenylmethyl-6,7,8,9-tetrahydropyrido[1,2-a]indole
A solution of 1.8 gm (4.7 mmol) of the product from Part B and 4 mL (15 mmol) of tri-n-butyltin hydride in 5.0 mL of toluene was heated to reflux and treated dropwise with a solution of 85 mg (0.5 mmol) of 2,2′-azobis(2-methylpropionitrile). The solution was refluxed 1 hour after the addition, cooled, evaporated in vacuo, taken up in ethyl acetate, shaken with aqueous potassium floride, and filtered. The organic phase was washed with saturated sodium chloride, dried over sodium sulfate, and evaporated in vacuo to give a mixture of 4-methoxy-6-methoxycarbonyl-10-phenylmethyl-6,7,8,9,9a,10-hexahydropyrido[1,2-a]indole and methyl 2-[3-phenylmethyl-7-methoxyindol-1-yl]pentanoate which was dissolved in 25 mL of dioxane and stirred with 450 mg (2 mmol) of dichlorodicyanoquinone for 30 minutes. The solution was evaporated in vacuo, taken up in dichloromethane, filtered through florisil, and evaporated in vacuo. The residue was chromatographed on silica gel eluting with a gradient hexane/10-20% ethyl ether to give the title compound, 75 mg, 5%, as an amorphous solid. 1H NMR (CDCl3) δ: 1.70 (m, 1H), 1.85 (m, 1H), 2.20 (m, 1H), 2.35 (m, 1H), 2.70 (m, 1H), 3.00 (m, 1H), 3.70 (s, 3H), 3.80 (s, 3H), 4.00 (q, 2H), 5.65 (m, 1H), 6.50 (d, 1H), 6.90 (t, 1H), 7.00 (d, 1H), 7.10 (m, 1H), 7.20 (m, 4H).

reactant | tri-n-butyltin hydride | 15 mmol, 4 mL | C(CCC)[SnH](CCCC)CCCC
reactant | 2,2′-azobis(2-methylpropionitrile) | 0.5 mmol, 85 mg | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
reactant | 4-methoxy-6-methoxycarbonyl-10-phenylmethyl-6,7,8,9,9a,10-hexahydropyrido[1,2-a]indole | COC=1C=CC=C2C(C3N(C12)C(CCC3)C(=O)OC)CC3=CC=CC=C3 | C22H25NO3
reactant | methyl 2-[3-phenylmethyl-7-methoxyindol-1-yl]pentanoate | C1(=CC=CC=C1)CC1=CN(C2=C(C=CC=C12)OC)C(C(=O)OC)CCC | C22H25NO3
solvent | toluene | 5.0 mL | C1(=CC=CC=C1)C | C7H8
solvent | dioxane | 25 mL | O1CCOCC1 | C4H8O2
product | 4-methoxy-6-methoxycarbonyl-10-phenylmethyl-6,7,8,9-tetrahydropyrido[1,2-a]indole | COC=1C=CC=C2C(=C3N(C12)C(CCC3)C(=O)OC)CC3=CC=CC=C3 | C22H23NO3
